US05916901
A mixture of 12-(3-bromo-1-propylidene)-12H-dibenzo[d,g][1,3]dioxocine (4.0 g, 12 mmol, prepared as described in example 1, 4-piperidinecarboxylic acid ethyl ester (1.9 g, 12 mmol), anhydrous potassium carbonate (5.0 g) and sodium iodide (0.2 g) in N,N-dimethylformamide (40 ml) was heated at 60-70° C. for 5 h. After cooling, the inorganic salts were filtered off and washed with benzene (40 ml), and the filtrate was diluted with additional benzene (120 ml). The benzene solution was washed with water (3×50 ml), dried over MgSO4 and evaporated in vacuo. The oily residue (4.8 g) was purified by chromatography on silica gel using a mixture of benzene and ethyl acetate as eluent to give 1-(3-(12H-dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester as an oil (2.3 g, 47%).

reactant | 12-(3-bromo-1-propylidene)-12H-dibenzo[d,g][1,3]dioxocine | BrCCC=C1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | C17H15BrO2
reactant | 4-piperidinecarboxylic acid ethyl ester | 12 mmol, 1.9 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(3-(12H-dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester | 2.3 g, 47% | C(C)OC(=O)C1CCN(CC1)CCC=C1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | C25H29NO4
